US04167512
In a manner analogous with the foregoing, 3,3-dimethyl-3,4-dihydroquinoxalin-2-one is hydrogenated at about 130° C. and 1500 psi in the presence of rhodium (5%) on charcoal in 2 hours, to yield cis-3,3-dimethyl-decahydroquinoxalin-2-one.

reactant | 3,3-dimethyl-3,4-dihydroquinoxalin-2-one | CC1(C(NC2=CC=CC=C2N1)=O)C | C10H12N2O
catalyst | rhodium | [Rh] | Rh
product | cis-3,3-dimethyl-decahydroquinoxalin-2-one | CC1(C(N[C@H]2CCCC[C@H]2N1)=O)C | C10H18N2O
